US08106077B2
3-(1-{4-[3-(2,6-Dichloro-phenyl)-5-isopropyl-3H-[1,2,3]triazol-4-ylmethoxy]-2-methyl-phenyl}-ethylsulfanyl)-benzoic acid
To an ambient temperature solution of 3-(1-{4-[3-(2,6-dichloro-phenyl)-5-isopropyl-3H-[1,2,3]triazol-4-ylmethoxy]-2-methyl-phenyl}-ethylsulfanyl)-benzoic acid methyl ester (53 mg, 0.0934 mmol) in dioxane (2 mL) is added a solution of lithium hydroxide (140 μL, 0.280 mmol, 2.0N in water). The reaction is heated to 50° C. for 2 h. The reaction mixture is concentrated and the residue is diluted with Et2O and water. The aqueous layer is adjusted to pH ˜4 and is extracted with a second portion of Et2O. The combined organic layers are washed with water, dried (MgSO4), filtered, and concentrated to yield the title compound (49 mg, 94%). LC-ES/MS m/e 556.3 (M+1), HPLC purity: 100%.

reactant | 3-(1-{4-[3-(2,6-dichloro-phenyl)-5-isopropyl-3H-[1,2,3]triazol-4-ylmethoxy]-2-methyl-phenyl}-ethylsulfanyl)-benzoic acid methyl ester | 0.0934 mmol, 53 mg | COC(C1=CC(=CC=C1)SC(C)C1=C(C=C(C=C1)OCC=1N(N=NC1C(C)C)C1=C(C=CC=C1Cl)Cl)C)=O | C29H29Cl2N3O3S
reactant | lithium hydroxide | 0.280 mmol, 2.0N, 140 μL | [OH-].[Li+]
solvent | dioxane | 2 mL | O1CCOCC1 | C4H8O2
product | 3-(1-{4-[3-(2,6-Dichloro-phenyl)-5-isopropyl-3H-[1,2,3]triazol-4-ylmethoxy]-2-methyl-phenyl}-ethylsulfanyl)-benzoic acid | 49 mg, 94% | ClC1=C(C(=CC=C1)Cl)N1N=NC(=C1COC1=CC(=C(C=C1)C(C)SC=1C=C(C(=O)O)C=CC1)C)C(C)C | C28H27Cl2N3O3S
